US08975265B2
Step 1: {1-[4-(6-Chloromethyl-3-phenyl-imidazo[1,2-a]pyridin-2-yl)-phenyl]-cyclobutyl}-carbamic acid tert-butyl ester
A solution of {1-[4-(6-hydroxymethyl-3-phenyl-imidazo[1,2-a]pyridin-2-yl)-phenyl]-cyclobutyl}-carbamic acid tert-butyl ester (200 mg) in DCM (1.9 mL), was treated with triethylamine (0.062 mL), cooled to 0° C. (ice bath), treated with methanesulfonyl chloride (0.028 mL, 0.358 mmol) and stirred for 2 hours at rt. The reaction mixture was partitioned between DCM and saturated aqueous sodium hydrogen-carbonate solution and the organic phase washed with brine, dried and concentrated in vacuo to give the crude title compound.

reactant | {1-[4-(6-hydroxymethyl-3-phenyl-imidazo[1,2-a]pyridin-2-yl)-phenyl]-cyclobutyl}-carbamic acid tert-butyl ester | 200 mg | C(C)(C)(C)OC(NC1(CCC1)C1=CC=C(C=C1)C=1N=C2N(C=C(C=C2)CO)C1C1=CC=CC=C1)=O | C29H31N3O3
reactant | triethylamine | 0.062 mL | C(C)N(CC)CC | C6H15N
reactant | methanesulfonyl chloride | 0.358 mmol, 0.028 mL | CS(=O)(=O)Cl | CH3ClO2S
solvent | DCM | 1.9 mL | C(Cl)Cl | CH2Cl2
product | {1-[4-(6-Chloromethyl-3-phenyl-imidazo[1,2-a]pyridin-2-yl)-phenyl]-cyclobutyl}-carbamic acid tert-butyl ester | C(C)(C)(C)OC(NC1(CCC1)C1=CC=C(C=C1)C=1N=C2N(C=C(C=C2)CCl)C1C1=CC=CC=C1)=O | C29H30ClN3O2
